US07244843B2
Step B. Preparation of 2-(1-aminomethyl-3-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-propionic acid hydrochloride
A stirring degassed solution of 2-(1-cyano-3-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-propionic acid tert-butyl ester (390 mg, 1.1 mmol) and 10% palladium on carbon (20 mg) in methanol (10 mL) and conc. hydrocloric acid (1 mL) was added 80 psi of hydrogen. The reaction was stirred for 4 h and then filtered. The filtrated was conc. in vacuo to a white solid. The solid was dissolved in water and lypholized to give 352 mg of the desired product as a white solid. MS (ESI) 303 (M−Cl).

reactant | 2-(1-cyano-3-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-propionic acid tert-butyl ester | 1.1 mmol, 390 mg | C(C)(C)(C)OC(C(C)N1C(C2=CC=CC(=C2C1=O)C(F)(F)F)C#N)=O | C17H17F3N2O3
reactant | hydrogen | [H][H] | H2
reactant | hydrocloric acid | 1 mL | Cl | ClH
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | 2-(1-aminomethyl-3-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-propionic acid hydrochloride | 352 mg | Cl.NCC1N(C(C2=C(C=CC=C12)C(F)(F)F)=O)C(C(=O)O)C | InChI=1S/C13H13F3N2O3.ClH/c1-6(12(20)21)18-9(5-17)7-3-2-4-8(13(14,15)16)10(7)11(18)19;/h2-4,6,9H,5,17H2,1H3,(H,20,21);1H
